US04824843
To a solution of 10.2 g (0.05 mol) of 3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-2-methylbenzenamine and 10 ml of triethylamine in dichloromethane is added 13.4 g (0.05 mol) of 5-(2,5-dimethylphenoxy)-2,2-dimethylpentanoyl chloride (U.S. Pat. No. 4,285,951). The mixture is worked up, chromatographed over silica gel and eluted with toluene-diethyl ether (2:1) to give 13 g of N-[3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-2-methylphenyl]-5-(2,5-dimethylphenoxy)-2,2-dimethylpentanamide; mp 51°-52° C.

reactant | 3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-2-methylbenzenamine | 0.05 mol, 10.2 g | CC1(N=C(OC1)C=1C(=C(C=CC1)N)C)C | C12H16N2O
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | 5-(2,5-dimethylphenoxy)-2,2-dimethylpentanoyl chloride | 0.05 mol, 13.4 g | CC1=C(OCCCC(C(=O)Cl)(C)C)C=C(C=C1)C | C15H21ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[3-(4,5-dihydro-4,4-dimethyl-2-oxazolyl)-2-methylphenyl]-5-(2,5-dimethylphenoxy)-2,2-dimethylpentanamide | 13 g | CC1(N=C(OC1)C=1C(=C(C=CC1)NC(C(CCCOC1=C(C=CC(=C1)C)C)(C)C)=O)C)C | C27H36N2O3
